US06787536B2
4(5-Pyridin-3-ylpyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester
Prepared according to the method for the preparation of 4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester, from 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (0.403 g) and pyridine-3-boronic acid 1,3-propanediol cyclic ester (0.211 g), to yield the title compound as an orange solid (0.399 g, 99%).

reactant | 4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F | C19H23FN4O2
reactant | 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 0.403 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)Br | C13H19BrN4O2
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.211 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
product | 4(5-Pyridin-3-ylpyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 0.399 g, 99% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C=1C=NC=CC1 | C18H23N5O2
